US06548493B1
(±)-cis-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
To a solution of 5,6,9,10,11,12-hexahydro-4H,8H-azepino[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (240 mg, 1.06 mmol) in TFA (4.0 mL) was added Et3SiH (2.0 mL). The mixture was stirred for 3 days then concentrated in vacuo. The residue was dissolved in dilute ACOH and washed with Et2O. The aqueous solution was basified with 1N NaOH. A white solid was precipitated and filtered to yield the title compound as a pale yellow viscous oil (200 mg, 83%). MS (CI, NH3): 229.4 (base, M+H).

reactant | 5,6,9,10,11,12-hexahydro-4H,8H-azepino[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 1.06 mmol, 240 mg | C1=CC=C2CCCN3C2=C1C1=C3CCCNC1 | C15H18N2
reactant | Et3SiH | 2.0 mL | [SiH](CC)(CC)CC | C6H16Si
solvent | TFA | 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (±)-cis-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 200 mg, 83% | C1=CC=C2CCCN3C2=C1[C@@H]1[C@H]3CCCNC1 | C15H20N2
